US08168642B2
Preparation of ethyl 2-(N-methyl-1H-imidazol-2-yl)-4-(2-chloro-4-fluorophenyl)-6-methyl-1,4-dihydro-pyrimidin-5-carboxylate
2 mmol N-methyl-1H-imidazol-2-formamidine methane sulfonate (Tommasi, R. A., Macchia, W. M., Parker, D. T., Tetrahedron Lett 1998, 39:5947-5950), 2 mmol 2-chloro-4-fluorobenzaldehyde, 2 mmol ethyl acetoacetate and 2.2 mmol sodium acetate were reacted under reflux in 10 ml anhydrous ethanol for 20 hr, concentrated, and then ethyl acetate and water were added to separate the layers. The ethyl acetate layer was dried over anhydrous sodium sulfate, and separated by a column chromatography to obtain 0.23 g of a yellowish columnar crystal with mp 166-167° C.; 1H-NMR (400 MHz, DMSO-d6) δ 1.03-1.06 (3H, m); 2.48 (3H, s); 3.81 (1H, s); 3.93-3.99 (2H, m); 6.00 (1H, s); 6.99-7.42 (5H, m); 9.57 (1H, s); MS (EI) 376.1 (M+).

reactant | N-methyl-1H-imidazol-2-formamidine methane sulfonate | 2 mmol | CS(=O)(=O)O.CNC(=N)C=1NC=CN1
reactant | 2-chloro-4-fluorobenzaldehyde | 2 mmol | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | ethyl acetoacetate | 2 mmol | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium acetate | 2.2 mmol | C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 2-(N-methyl-1H-imidazol-2-yl)-4-(2-chloro-4-fluorophenyl)-6-methyl-1,4-dihydro-pyrimidin-5-carboxylate | CN1C(=NC=C1)C=1NC(=C(C(N1)C1=C(C=C(C=C1)F)Cl)C(=O)OCC)C | C18H18ClFN4O2
